US07488729B2
Preparation of Amorphous Form of Ziprasidone Hydrochloride
Ziprasidone (5 g) and 50 mL of acetic acid were placed into a round bottom flask and heated to 45-50° C. Added was 25 mL of aqueous hydrochloric acid slowly to the mixture over 20 min. Then the reaction mixture was refluxed. Water (10 mL) was added, followed by addition of 50 mL of Isopropanol. The reaction mass was cooled to 50° C. and distilled off the solvent completely under vacuum. The material formed was scratched from the flask.

reactant | Ziprasidone | 5 g | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5 | C21H21ClN4OS
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 25 mL | Cl | ClH
reactant | Water | 10 mL | O | H2O
solvent | Isopropanol | 50 mL | C(C)(C)O | C3H8O
product | Ziprasidone Hydrochloride | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5.Cl | InChI=1S/C21H21ClN4OS.ClH/c22-17-13-18-15(12-20(27)23-18)11-14(17)5-6-25-7-9-26(10-8-25)21-16-3-1-2-4-19(16)28-24-21;/h1-4,11,13H,5-10,12H2,(H,23,27);1H
